US09260454B2
b) 2-(Morpholine-4-carbonyl)-isothiazolo[5,4-b]pyridin-3-one
To a suspension of isothiazolo[5,4-b]pyridin-3-one (5.0 g, 32.86 mmol) in acetonitrile (180 ml) was added dropwise triethylamine (14 ml, 99 mmol) and afterwards 4-morpholinecarbonyl chloride (3.8 ml, 32.9 mmol) at room temperature. The reaction mixture was stirred for 3 h at 60° C. The solvent was removed under reduced pressure. To the crude oil was added water (50 ml) and ethyl acetate (50 ml), the phases separated and the aqueous phase extracted with ethyl acetate. The organic layers were combined, washed with water, dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by high performance liquid chromatography (RP silica gel, acetonitrile/water/trifluoroacetic acid) and lyophilization of the product fractions provided 5.0 g (57%) of the title compound as a white powder.

reactant | isothiazolo[5,4-b]pyridin-3-one | 32.86 mmol, 5.0 g | S1NC(C=2C1=NC=CC2)=O | C6H4N2OS
reactant | triethylamine | 99 mmol, 14 ml | C(C)N(CC)CC | C6H15N
reactant | 4-morpholinecarbonyl chloride | 32.9 mmol, 3.8 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | acetonitrile | 180 ml | C(C)#N | C2H3N
product | 2-(Morpholine-4-carbonyl)-isothiazolo[5,4-b]pyridin-3-one | 5.0 g, 57% | N1(CCOCC1)C(=O)N1SC2=NC=CC=C2C1=O | C11H11N3O3S
